US07608563B2
In dry tetrahydrofuran (60 mL) was suspended 4.80 g (120 mmol) of 60% sodium hydride, and a dry tetrahydrofuran (80 mL) solution containing 13.6 g (100 mmol) of 2-isopropylphenol was added dropwise to the suspension at 0° C. After stirring at 0° C. for 10 minutes, a dry tetrahydrofuran (80 mL) solution containing 14.9 g (119 mmol) of 2-methoxyethoxymethyl chloride was added dropwise thereto. The reaction mixture was stirred in an ice bath for 2 hours, poured into ice-cold water (250 mL), and extracted with ethyl acetate. The organic layers were combined, washed succeccively with 1 mol/L aqueous sodium hydroxide solution and brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (eluted with hexane:ethyl acetate=50:1) to obtain 18.1 g (80.8 mmol, Yield: 80.8%) of 1-isopropyl-2-[(2-methoxyethoxy)methoxy]benzene.

reactant | sodium hydride | 120 mmol, 4.80 g | [H-].[Na+]
reactant | 2-isopropylphenol | 100 mmol, 13.6 g | C(C)(C)C1=C(C=CC=C1)O | C9H12O
reactant | 2-methoxyethoxymethyl chloride | 119 mmol, 14.9 g | COCCOCCl | C4H9ClO2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 1-isopropyl-2-[(2-methoxyethoxy)methoxy]benzene | 80.8 mmol, 18.1 g, Yield: 80.8% | C(C)(C)C1=C(C=CC=C1)OCOCCOC | C13H20O3
